US04242325
A. N-[3-(Trifluoromethyl)phenyl]aminophosphoryl dichloride
To a solution of 60 g (0.37 m) of 3-trifluoromethylaniline and 300 ml of POCl3 was heated at reflux for 3 hours. The excess POCl3 was removed by vacuum distillation to yield 102 g of a red-brown oil.

reactant | 3-trifluoromethylaniline | 60 g | FC(C=1C=C(N)C=CC1)(F)F | C7H6F3N
reactant | POCl3 | 300 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | N-[3-(Trifluoromethyl)phenyl]aminophosphoryl dichloride | 102 g | FC(C=1C=C(C=CC1)NP(=O)(Cl)Cl)(F)F | C7H5Cl2F3NOP
